US07964724B2
Potassium carbonate (9.4 g, 68.0 mmol) and iodoethane (3.3 mL, 41.3 mmol) were added to a stirred solution of 5-tert-butyl-2-hydroxy-benzoic acid (1.3 g, 6.8 mmol) in 2-butanone (50 mL). The resulting mixture was heated at 80° C. (oil bath) for 16 h and then allowed to cool. The solution was concentrated and redisolved in methylene chloride. The organic phase was washed with water, brine, and dried over anhydrous magnesium sulfate. The solids were filtered off, and the filtrate was concentrated. Purification of the crude residue by flash chromatography (silica gel, eluting with 5-10% ethyl acetate in hexanes) gave ethyl 5-tert-butyl-2-ethoxy-benzoate (1.2 g, 81%) as a yellow oil.

reactant | Potassium carbonate | 68.0 mmol, 9.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 41.3 mmol, 3.3 mL | ICC | C2H5I
reactant | 5-tert-butyl-2-hydroxy-benzoic acid | 6.8 mmol, 1.3 g | C(C)(C)(C)C=1C=CC(=C(C(=O)O)C1)O | C11H14O3
reactant | 2-butanone | 50 mL | CC(CC)=O | C4H8O
product | ethyl 5-tert-butyl-2-ethoxy-benzoate | 1.2 g, 81% | C(C)(C)(C)C=1C=CC(=C(C(=O)OCC)C1)OCC | C15H22O3
